US07160888B2
Synthesis of 2-{4-[4-(6-Isopropyl-pyridin-2-yl)-piperazin-1-yl]-butoxy}-4-methyl-8H-pyrido[2,3-d]pyrimidin-7-one
4-(4-Methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-yloxy)-butyraldehyde (74.2 mg, 0.3 mmol) and 1-(6-isopropyl-pyridin-2-yl)-piperazine (62.8 mg, 0.306 mmol) were combined in methylene chloride and stirred in a vial over sieves for 10 min. Sodium triacetoxyborohydride (89 mg, 0.42 mmol) was added and the reaction was stirred overnight. The reaction was quenched by slowly adding water and then the mixture was filtered. The residue was partitioned between CH2Cl2 and water and the organic layer was concentrated. Purification by liquid chromatography (MPLC, gradient of 100% CH2Cl2 to 100% of a 10% MeOH in CH2Cl2 solution) gave the title compound as a low melting solid (55 mg, 0.126 mmol, 42%). MS: APCI: M+1: 437.3 (Exact Mass: 436.26).

reactant | 4-(4-Methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-yloxy)-butyraldehyde | 0.3 mmol, 74.2 mg | CC=1C2=C(N=C(N1)OCCCC=O)NC(C=C2)=O | C12H13N3O3
reactant | 1-(6-isopropyl-pyridin-2-yl)-piperazine | 0.306 mmol, 62.8 mg | C(C)(C)C1=CC=CC(=N1)N1CCNCC1 | C12H19N3
reactant | Sodium triacetoxyborohydride | 0.42 mmol, 89 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-{4-[4-(6-Isopropyl-pyridin-2-yl)-piperazin-1-yl]-butoxy}-4-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | C(C)(C)C1=CC=CC(=N1)N1CCN(CC1)CCCCOC=1N=C(C2=C(N1)NC(C=C2)=O)C | C24H32N6O2
